US06969711B2
2-Bromo-N-(2,6-diisopropylphenyl)acetamide (5.96 g, 20 mmol) was dissolved in concentrated sulfuric acid (100 ml) with ice-cooling, a solution of fuming nitric acid (1.51 g, 24 mmol) dissolved in concentrated sulfuric acid (10 ml) was dropped thereinto and the mixture was stirred for 10 minutes. The reaction solution was poured onto ice water, the separated matters were filtered off and the extraction with ethyl acetate was conducted. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over sodium sulfate and the solvent was evaporated therefrom. The residue was recrystallized from acetone-hexane to provide 6.52 g (yield 95%) of 2-bromo-N-(2,6-diisopropyl-3-nitrophenyl)acetamide as pale yellow needles.

reactant | 2-Bromo-N-(2,6-diisopropylphenyl)acetamide | 20 mmol, 5.96 g | BrCC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C14H20BrNO
reactant | nitric acid | 24 mmol, 1.51 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-bromo-N-(2,6-diisopropyl-3-nitrophenyl)acetamide | 6.52 g, yield 95% | BrCC(=O)NC1=C(C(=CC=C1C(C)C)[N+](=O)[O-])C(C)C | C14H19BrN2O3
